US06770667B1
To a suspension of.3-cyano-3-(3-nitro-phenyl)-acrylic acid potassium salt (1.28 g) in formic acid (10 ml) and water (1 ml) was added sulfuric acid (1 ml), and the mixture was refluxed for 3 hours. After cooling, the mixte was poured into water. The resulting precipitate was collected by filtration and dried to give 3-(3-nitrophenyl)-furan-2,5-dione(0.69 g).

reactant | 3-cyano-3-(3-nitro-phenyl)-acrylic acid potassium salt | 1.28 g | [K+].C(#N)C(=CC(=O)[O-])C1=CC(=CC=C1)[N+](=O)[O-]
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | formic acid | 10 ml | C(=O)O | CH2O2
solvent | water | 1 ml | O | H2O
product | 3-(3-nitrophenyl)-furan-2,5-dione | 0.69 g | [N+](=O)([O-])C=1C=C(C=CC1)C=1C(OC(C1)=O)=O | C10H5NO5
